US08871756B2
2-{4-[(2-Aminoethyl)amino]quinolin-2-yl}-7-bromo-1,2,4,5-tetrahydro-3H-2-benz azepin-3-one
To a solution of 7-bromo-2-(4-chloroquinolin-2-yl)-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one (40 mg, 0.1 mmol) was added ethane-1,2-diamine (0.5 mL) in a microwave vessel, which was degassed and refilled with nitrogen. The resultant mixture was heated at 170° C. under microwave irradiation for 30 minutes. After cooled to room temperature, the mixture was diluted with methanol (10 mL) and concentrated under reduced pressure to give a residue which was purified by preparative HPLC to afford 42 mg of product as a solid (yield was 98%). MS obsd. (ESI+) [(M+H)+] 424. 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (d, J=8.0 Hz, 1 H), 7.73 (d, J=8.0 Hz, 1 H), 7.58 (m, 2 H), 7.47 (s, 2 H), 7.32 (td, J=1.2, 8.8 Hz, 1 H), 6.04 (s, 1 H), 5.48 (s, 2 H), 3.42 (t, J=6.4 Hz, 2 H), 3.11 (t, J=7.6 Hz, 2 H), 2.98 (t, J=6.0 Hz, 2 H), 2.86 (t, J=7.2 Hz, 2 H).

reactant | 7-bromo-2-(4-chloroquinolin-2-yl)-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 0.1 mmol, 40 mg | BrC=1C=CC2=C(CCC(N(C2)C2=NC3=CC=CC=C3C(=C2)Cl)=O)C1 | C19H14BrClN2O
reactant | ethane-1,2-diamine | 0.5 mL | C(CN)N | C2H8N2
product | 2-{4-[(2-Aminoethyl)amino]quinolin-2-yl}-7-bromo-1,2,4,5-tetrahydro-3H-2-benz azepin-3-one | 42 mg, yield was 98% | NCCNC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1=O)C=C(C=C2)Br | C21H21BrN4O
